US07598423B2
Synthesis of 3-(3-{[4-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenyl]-hydroxy-methyl}-phenyl)-4H-[1,2,4]oxadiazol-5-one
Add isopropyl magnesium chloride (2M solution in tetrahydrofuran, 0.496 ml, 0.992 mmol) to a solution of 1-(4-iodo-benzyloxy)-2-propyl-3-trimethylsilanyloxy-4-(1-trimethylsilanyloxy-vinyl)-benzene (500 mg, 0.901 mmol) in tetrahydrofuran (0.1M) at 0° C. After 15 minutes, warm to room temperature. After 1 hour, cool to −78° C. Add sodium hydride (60% dispersion, 24 mg, 0.992 mmol) to a solution of 3-(5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl)-benzaldehyde (189 mg, 0.992 mmol) in tetrahydrofuran (0.1M). Sonicate the solution for 5 minutes, then add it via syringe to the gringard reagent. After 30 minutes warm the reaction to room temperature. Quench with 10% aq hydrochloric acid (3 mL). Pour the reaction into brine and extract with 25% isopropyl alcohol:75% dichloromethane. Combine organic layers, dry with sodium sulfate, filter and concentrate under reduced pressure to give a residue. Purify the residue by flash chromatography eluting with ethyl acetate:hexanes:acetic acid 50%:50%:0.1% to yield the title product as a off white solid (110 mg, 26%): 1H NMR (DMSO-d6) δ 0.86 (t, 3H), 1.47 (sextet, 2H), 2.56 (m, 5H), 5.21 (s, 2H), 5.79 (d, 1H), 6.11 (d, 1H), 6.70 (d, 1H), 7.41 (q, 4H), 7.51 (t, 1H), 7.63 (t, 2H), 7.78 (d, 1H), 7.90 (s, 1H), 12.83 (s, 1H), 12.97 (bs, 1H); MS (esi negative) m/z (rel intensity) 473 (100).

reactant | isopropyl magnesium chloride | 0.992 mmol, 2M, 0.496 ml | C(C)(C)[Mg]Cl
reactant | 1-(4-iodo-benzyloxy)-2-propyl-3-trimethylsilanyloxy-4-(1-trimethylsilanyloxy-vinyl)-benzene | 0.901 mmol, 500 mg | IC1=CC=C(COC2=C(C(=C(C=C2)C(=C)O[Si](C)(C)C)O[Si](C)(C)C)CCC)C=C1 | C24H35IO3Si2
reactant | sodium hydride | 0.992 mmol, 24 mg | [H-].[Na+]
reactant | 3-(5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl)-benzaldehyde | 0.992 mmol, 189 mg | O=C1NC(=NO1)C=1C=C(C=O)C=CC1 | C9H6N2O3
solvent | tetrahydrofuran | 0.1M | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.1M | O1CCCC1 | C4H8O
product | 3-(3-{[4-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenyl]-hydroxy-methyl}-phenyl)-4H-[1,2,4]oxadiazol-5-one | C(C)(=O)C1=C(C(=C(OCC2=CC=C(C=C2)C(C=2C=C(C=CC2)C2=NOC(N2)=O)O)C=C1)CCC)O | C27H26N2O6
